US06310095B1
N-(3-Chloropropanesulfonyl)-N-(2-cyclohexylethyl)amine
The desired compound was prepared using the method described in Example 1174A starting with cyclohexylethylamine and 3-chloropropanesulfonyl chloride.

reactant | cyclohexylethylamine | C1(CCCCC1)CCN | C8H17N
reactant | 3-chloropropanesulfonyl chloride | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
product | N-(3-Chloropropanesulfonyl)-N-(2-cyclohexylethyl)amine | ClCCCS(=O)(=O)NCCC1CCCCC1 | C11H22ClNO2S
